US09403818B2
Preparation of methyl 8-(3-fluoro-4-hydroxyphenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(3-fluoro-4-hydroxyphenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and (3-fluoro-4-hydroxyphenyl)boronic acid (64.1 mg, 0.41 mmol). The residue was rinsed with DCM and dried in a vacuum stove to afford the title compound as a yellow solid (95 mg, 76%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | (3-fluoro-4-hydroxyphenyl)boronic acid | 0.41 mmol, 64.1 mg | FC=1C=C(C=CC1O)B(O)O | C6H6BFO3
product | methyl 8-(3-fluoro-4-hydroxyphenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 95 mg, 76% | FC=1C=C(C=CC1O)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C21H18FNO4
